US07411072B2
N-[3-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-4-methyl-phenyl]-methanesulfonamide
Following the procedures essentially as described in Example 219, below, and using N-[4-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanesulfonamide (120 mg, 0.386 mmol) and 5-bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (100 mg, 0.351 mmol) affords 83 mg (61%) of the title compound as a yellow solid. MS (ES) 407 (M+NH4), 388 (M−H); HPLC shows 91% purity.

reactant | N-[4-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanesulfonamide | 0.386 mmol, 120 mg | CC1=C(C=C(C=C1)NS(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C14H22BNO4S
reactant | 5-bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.351 mmol, 100 mg | BrC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C16H13Br
product | N-[3-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-4-methyl-phenyl]-methanesulfonamide | 83 mg, 61% | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=C(C=CC3C)NS(=O)(=O)C | C24H23NO2S
